US08871753B2
Step D. tert-Butyl {5-[(3-aminophenyl)ethynyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate
tert-Butyl (5-bromo-2-methyl-4-morpholin-4-ylphenyl)carbamate (110 mg, 0.3 mmol), copper(I) iodide (4 mg, 0.02 mmol) and bis(triphenylphosphine)palladium(II) chloride (10 mg, 0.01 mmol) were stirred in tetrahydrofuran (0.5 mL) and triethylamine (50 μL, 0.4 mmol) was added. 3-Ethynylaniline (100 μL, 1.0 mmol) was added and the mixture was heated to 80° C. for 1 hour. The mixture was filtered through celite and purified by preparative LCMS (pH 2). The product fractions were neutralized with saturated sodium bicarbonate solution, evaporated to remove acetonitrile and extracted with ethyl acetate. The extracts were evaporated to give the desired compound (25 mg, 31%). LCMS for C24H30N3O3 (M+H)+: m/z=408.1.

reactant | tert-Butyl (5-bromo-2-methyl-4-morpholin-4-ylphenyl)carbamate | 0.3 mmol, 110 mg | BrC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1 | C16H23BrN2O3
reactant | triethylamine | 0.4 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | 3-Ethynylaniline | 1.0 mmol, 100 μL | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.02 mmol, 4 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.01 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl {5-[(3-aminophenyl)ethynyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate | 25 mg, 31% | NC=1C=C(C=CC1)C#CC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1 | C24H29N3O3
